** sch_path: /foss/designs/PhaseInterpolator/2to4/2to4prelim.sch
**.subckt 2to4prelim VDD VQB VQ VINI VSS VCONT VIB VI VINIB
*.iopin VDD
*.iopin VSS
*.ipin VCONT
*.ipin VINI
*.opin VIB
*.opin VQ
*.opin VQB
*.ipin VINIB
*.opin VI
x1 VDD VINI net2 VCONT VSS delay_variable
x2 VDD net1 net2 VSS inv
x3 VDD net3 net1 VSS inv
x4 VDD net6 net3 VSS inv
x6 VDD net5 VINI VSS inv
x5 VDD net4 VINIB VSS inv
x7 VDD VI net4 VSS buff_d16
x8 VDD VIB net5 VSS buff_d16
x9 VDD VQ net6 VSS buff_d16
x10 VDD VQB net3 VSS buff_d16
**.ends

* expanding   symbol:  /foss/designs/PhaseInterpolator/2to4/delay_variable.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/2to4/delay_variable.sym
** sch_path: /foss/designs/PhaseInterpolator/2to4/delay_variable.sch
.subckt delay_variable VDD VIN VOUT VCONT VSS
*.iopin VSS
*.iopin VDD
*.opin VOUT
*.ipin VCONT
*.ipin VIN
XM1 VOUT VIN net2 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=4
XM2 net2 VCONT VSS VSS sg13_lv_nmos w=0.15u l=0.25u ng=1 m=4
XM3 net3 VCONT VSS VSS sg13_lv_nmos w=0.15u l=0.25u ng=1 m=5
XM5 VOUT VIN net1 VDD sg13_lv_pmos w=0.2u l=0.13u ng=1 m=5
XM6 net1 net3 VDD VDD sg13_lv_pmos w=0.2u l=0.25u ng=1 m=5
XM4 net3 net3 VDD VDD sg13_lv_pmos w=0.15u l=0.25u ng=1 m=5
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sch
.subckt inv VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d16.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d16.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d16.sch
.subckt buff_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x7 VDD net1 VIN VSS inv_d2
x8 VDD net2 net1 VSS inv_d4
x9 VDD net3 net2 VSS inv_d8
x10 VDD VOUT net3 VSS inv_d16
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sch
.subckt inv_d2 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv
x1[0] VDD VOUT VIN VSS inv
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sch
.subckt inv_d4 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d2
x1[0] VDD VOUT VIN VSS inv_d2
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sch
.subckt inv_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d4
x1[0] VDD VOUT VIN VSS inv_d4
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d16.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d16.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d16.sch
.subckt inv_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d8
x1[0] VDD VOUT VIN VSS inv_d8
.ends

.end
